Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Cephalosporins / Amoxicillin / Reglan / Imitrex / 
Erythromycin Base / Penicillins
 
Attending: ___.
 
Chief Complaint:
Cough, pleuritic chest pain and headache admitted to the ICU for 
hypotension in the setting of fever to 105

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
A ___ year old female with past medical history IV drug use, 
migraines presented to the ___ ED with complaints of malaise, 
fever, chills, dyspnea x 1 days. She reports rinorrhea and sore 
throat 2 days ago. Yesterday, she developed worsening dyspnea, 
nonproductive cough and fever to 103. At that time, she also 
noted pleuritic chest pain. She reports that other residents at 
her half way house have similar symptoms. 
.
Of note, she was seen in the ED ___ for headache similar to 
previous migraines, given medication refill and discharged home, 
also on ___ for malaise and lethargy and was observed overnight 
with improvment, thought to be related to methadone.
.
In the ED, initial vs were: T105.8 ___ BP130/90 R20 O2 sat 
99%RA. She initially complained of headache ___ and dyspnea 
with cough. Labs were notable for WBC 5.1, 75% PMN, lactate 1.5, 
UCG neg, U/A negative. Chest xray showed no effusion or 
infiltrate. She had a bedside ECHO cardiogram which was negative 
for vegitations. Patient was given acetaminophen 500mg ketorlac 
levofloxacin 750mg, Vancomycin 1g, Meropenem 1g, oseltamivir 
75mg. She developed hypotension to SBP 90's, a right IJ was 
placed and she was treated with 4L NS and started on levophed. 
Vitals on transfer were T103.7 BP142 BP86/40. SBP in ___. RR 18 
99% on RA
.
On arrival to the ICU vitals were T101.3 ___ BP70/40 R18 O2 
sat98%. She reported that headahce has improved since 
presentation to ED and is now ___. Reports continued dyspnea 
and non-productive cough with bilateral pleuritic chest pain. 
Denies IV drug use x 1 month. Denies numbness/tingling, denies 
photophobia, states that she is squinting because she needs her 
glasses.
.
Review of sytems: 
(+) Night sweats, weight gain,
(-) Denies nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits. No dysuria. 
Denied arthralgias or myalgias.
 
Past Medical History:
Multiple suicide attempts 
IV drug abuse (heroin and cocaine)
MRSA pneumonia
Endometriosis
Hypercholesterolemia
Questionable history of Hepatitis C (ab postive, RNA negative)
Asthma
Migraines
Depression
Appendicitis
Restless leg syndrome
 
Social History:
___
Family History:
Father hypercholesterolemia, Mother ___ 
grandmother CAD.
 
Physical Exam:
Admission Physical Exam:
Vitals: T101.3 ___ BP70/40 R18 O2 sat98% RA  
General: Alert young female appearing uncomfortable 
HEENT: EOMI PEERLA, Sclera anicteric, MMM, oropharynx clear
Neck: supple full range of motion, JVP not elevated, no LAD
Lungs: Normal tactile fremitus, resonant to percussion. Clear to 
auscultation bilaterally, no wheezes, rales, rhonchi
CV: tachycardic ___ SEM regular rhythm, normal S1 + S2,
Abdomen: well healed surgical scar, soft, non-tender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding, no organomegaly
GU: no foley
Ext: exceptionally warm to touch, 2+ pulses, no edema. 
NEURO: CN II-XII intact, no nystagmus DTRs not elicited in 
patella ___, 2+ in biceps tendon ___, babinski downgoing, 
sensation to fine touch intact ___
 
Pertinent Results:
Admission Labs ___:
-WBC-5.1 RBC-4.11* Hgb-13.3 Hct-36.7 MCV-89 MCH-32.3* MCHC-36.2* 
RDW-13.9 Plt ___ PTT-35.6* ___
-Glucose-128* UreaN-13 Creat-1.0 Na-136 K-3.2* Cl-104 HCO3-19* 
AnGap-16
-ALT-37 AST-46* LD(LDH)-242 CK(CPK)-126 AlkPhos-113* TotBili-0.3
-Albumin-4.7 Calcium-9.4 Phos-1.7*# Mg-1.7
-TSH-1.1
-ASA-5.1 Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG Barbitr-POS 
Tricycl-NEG
-Lactate-1.5
.
___ Admission CXR: Cardiac, mediastinal and hilar contours are 
normal. Both lungs are clear with no focal consolidation, 
pleural effusion or pneumothorax. 
.
Repeat CXR on ___: Tip of the new right internal jugular line 
ends in the upper SVC. There is no
mediastinal widening, pneumothorax, or pleural effusion. There 
is new
heterogeneous opacification in the right mid and upper lung 
zones strongly
suggestive of developing pneumonia. Left lung is clear. Heart 
size normal.
No pleural effusion.
.
___scites in ___'s pouch not amenable to 
ultrasound-guided 
paracentesis. 
.  
___ ECHO TTE
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF 70%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion.
IMPRESSION: no vegetations seen, but suboptimal image quality
.
RUQ ultrasound: ___ IMPRESSION: Small periportal nodes, 
subcentimeteric in short axis diameter.No other remarkable 
abnormalities noted.
.
HIV Viral lode was negative
All Blood & Urine Cx were all negative for growth
Legionella Ag negative
Hepatitis C antibody was positive, Viral loade returned without 
any detectable virus
Vaginal G/C PCR pending at the time of this dictation

 
Brief Hospital Course:
# Hypotension/Pneumonia: Patient was admitted to the ICU with 
tachycardia, fever, and hypotension which was felt most likely 
from acute pneumonia given cough, pleuritis, and opacities on 
CXR.  Pt was covered with Vancomycin/Levofloxacin due to her 
history of MRSA PNA.  She was aggressively fluid resuscitated 
and supported with pressors with resolution of hypotension.  Pt 
did not require ventilator support and later had significant  
autodiuresis of large volumes of urine and BP remained stable 
off pressors.   She was called out to the floor with resolution 
of fevers.  Additional infectious work up included multiple 
negative Urine & Blood Cx, an echo that did not show any 
vegetations, negative HIV viral load, negative Viral Influenza 
screen and negative Legionella Antigen. Leukocytosis continued 
to resolve on Linezolid with high dose Levofloxacin.   Pt was 
continued on Linezolid for an ___nd pre-authorization 
was obtained for po Linezolid on discharge to sober house.  
Levofloxacin was transitioned to Moxifloxacin to complete the ___ue to insurance approval requirements.
.
# Abnomal LFTs: Pt reports intermittent RUQ pain and initial u/s 
showed small amount of ascites though not enough for 
paracentesis and LFTs revealed a mildly elevated transaminases 
with mild Alk Phos elevation.  Hepatitis panel was sent and 
returned positive for Hep C Ab though Hep C VL was negative.  
Hep B studies revealed prior immunization and repeated RUQ u/s 
was performed prior to discharge which showed small periportal 
lymphadenopathy.  These results were discussed with the patient 
and she was given an appointment to follow up with the liver 
clinic for further investigation. 
.
# Narcotic addiction:  Pt was continued on Methadone at 
confirmed clinic doses but had an epsiode of somnolence in the 
ICU thought due to multidrug interaction.  There was concern 
raised for in hospital drug abuse though repeat urine drug 
screen returned positive for opiates (on Methadone) and 
barbituates (on Fioricet) without any unexplained positive 
substances on the screen.  Given this concern, all visitors were 
screened prior to visits.  After being transitioned to medical 
floor, pt was restarted on her home medication regimen including 
Clonidine, Clonazepam and Methadone with mild intermittent 
somnolence though no acute episodes of confusion.  It was 
suggested that this regimen may be overmedicating her and pt 
felt that it was necessary to treat her anxiety and withdrawal.  
She was discharged with plan for PCP and ___ clinic follow 
up but was not given any refills on these medications.
.
# Vulvovaginitis: Pt reported symptoms of vaginal 
itching/burning consistent with prior yeast infections.  
Symptoms were only somewhat relieved with fluconazole/miconazole 
cream.  Pt endorsed some concern of possible exposure to an STI 
prior to admission and pelvic exam was performed on ___ that 
was significant for vulvar irritation most likely c/w ___.  
Cervical swabs were sent for gonorrhea/chlamydia but were 
pending at the time of this dictation.  We will follow up on the 
final results.  Pt was discharged with a course of miconazole 
and acidophilus per her request.
 
Medications on Admission:
Crestor 40 mg Tablet BID
Fioricet 50-325-40 mg PO Q4h PRN Headache 
Mirtazepine 30 mg daily
Duloxetine 60 mg daily
Topirimate 100 mg BID 
Clonidine 0.1 mg TID
Klonopin 0.5 mg TID
ibuprofen 800 mg TID 
Ambien 10 mg QHS Tab 
ranitidine 150 mg BID 
methadone 60 mg daily 
propranolol 80 mg BID
Requip 1mg QHS
 
Discharge Medications:
1. linezolid ___ mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours) for 2 days.
Disp:*4 Tablet(s)* Refills:*0*
2. moxifloxacin 400 mg Tablet Sig: One (1) Tablet PO once a day 
for 2 days.
Disp:*2 Tablet(s)* Refills:*0*
3. Crestor 40 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. Fioricet 50-325-40 mg Tablet Sig: One (1) Tablet PO three 
times a day as needed for headache.  
5. mirtazapine 30 mg Tablet Sig: One (1) Tablet PO once a day.  
6. duloxetine 60 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
7. topiramate 100 mg Tablet Sig: One (1) Tablet PO twice a day.  

8. clonidine 0.1 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for anxiety/withdrawal.  
9. Klonopin 0.5 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for anxiety.  
10. Ambien 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
11. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
12. methadone 10 mg Tablet Sig: Six (6) Tablet PO once a day.  
13. propanolol  Sig: Eighty (80) mg  twice a day.  
14. Requip 1 mg Tablet Sig: One (1) Tablet PO at bedtime.  
15. Acidophilus 175 mg Capsule Sig: One (1) Capsule PO twice a 
day for 10 days.
Disp:*20 Capsule(s)* Refills:*0*
16. Miconazole 7 100 mg Suppository Sig: One (1)  Vaginal once a 
day for 7 days.
Disp:*7 suppositories* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Bacterial Pneumonia
Fevers
Hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fevers and low blood pressure to the 
intensive care unit.  You were found to have a pneumonia and 
have improved significantly on antibiotics.  You will need to 
continue taking antibiotics for another 2 days to complete the 8 
day course.  You were also reporting intermittent epigastric 
pain and underwent a RUQ ultrasound which showed some fluid and 
mildly enlarged lymph nodes around the liver.  This will need to 
be followed up and you have been scheduled to see the liver 
specialist, please keep this appointment as shown below.  
.
You were reporting some vulvovaginitis and underwent pelvic exam 
that was most consistent with yeast candidiasis.  You have 
received two days of fluconazole and you have been given a 
prescription for miconazole and acidophilus to help clear this 
infection.   There are additional cultures pending from your 
exam and I will notify you if they return positive.
.

 
Followup Instructions:
___